US08134004B2
Step A11A: 6-fluoroquinoline-4-carbonitrile
A mixture of 4-chloro-6-fluoroquinoline (APOLLO) (1120 mg, 6.17 mmol), zinc cyanide (1450 mg, 12.3 mmol) and palladium (0) tetrakis(triphenylphosphine)(713 mg, 0.617 mmol) in dry DMF (15 ml) was treated with microwave (160° C., 30 min.). The mixture was diluted with ethyl acetate and filtered through a pad of celite. To the filtrate was added toluene (ca.20 ml) and the organic layer was washed with water (×2), brine, dried and concentrated in vacuo to give crude product. The crude product was purified by column chromatography on silica gel (ca. 250 g) with hexane-ethyl acetate (3:1) to give the title compound (880 mg, white solid). 1H NMR (270 MHz, CDCl3) δ ppm 7.60-7.70 (1H, m), 7.75-7.79 (1H, m), 7.81-7.87 (1H, m), 8.20-8.28 (1H, m), 9.00-9.05 (1H, m).

reactant | 4-chloro-6-fluoroquinoline | 6.17 mmol, 1120 mg | ClC1=CC=NC2=CC=C(C=C12)F | C9H5ClFN
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 12.3 mmol, 1450 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | palladium (0) tetrakis(triphenylphosphine) | 0.617 mmol, 713 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 6-fluoroquinoline-4-carbonitrile | 880 mg | FC=1C=C2C(=CC=NC2=CC1)C#N | C10H5FN2
